** TR-1um_STDCELL.spice -- schematic-side transistor-level bodies for the
** standard cells this project places.  GENERATED by scripts/gen_cell_spice.py;
** do not edit by hand.
**
** Source for every cell marked "from I2C .cir":
**   TR-1um_I2C_2026/src/tr_1um_i2c_slave_async.cir
** (the as-submitted TR-1um_I2C_2026 chip LVS netlist -- same cell library,
** already matched device-for-device against lef/TR-1um_STDCELL.gds by a real
** KLayout LVS run).  Bodies are copied verbatim, never retyped.
**
** TAP2 has no devices and no subckt.  FILL3's decap pair is emitted inline in
** the top cell by scripts/gen_lvs_spice.py, matching the layout extraction.


** AND2_X1: from I2C .cir
.subckt AND2_X1 VDD Y A B GND
*.PININFO Y:O A:I B:I VDD:B GND:B
MM7 net1 B VDD VDD PMOS w=10.2u l=1u
MM1 net1 A VDD VDD PMOS w=10.2u l=1u
MM2 Y net1 VDD VDD PMOS w=10.2u l=1u
MM3 Y net1 GND GND NMOS w=3.4u l=1u
MM4 net1 A net2 GND NMOS w=3.4u l=1u
MM5 net2 B GND GND NMOS w=3.4u l=1u
.ends

** BUFTH: from I2C .cir
.subckt BUFTH VDD A Y GND
*.PININFO A:I Y:O VDD:B GND:B
MM9 MID A net1 VDD PMOS w=5.1u l=1u
MM2 Y MID VDD VDD PMOS w=10.2u l=1u
MM8 MID A net2 GND NMOS w=3.4u l=1u
MM1 Y MID GND GND NMOS w=3.4u l=1u
MM6 GND MID net1 VDD PMOS w=10.2u l=1u
MM3 VDD MID net2 GND NMOS w=6.8u l=1u
MM5 net2 A GND GND NMOS w=3.4u l=1u
MM4 net1 A VDD VDD PMOS w=5.1u l=1u
.ends

** BUF_X2: defined locally (see gen_cell_spice.py)
.subckt BUF_X2 VDD A Y GND
*.PININFO A:I Y:O VDD:B GND:B
* BUF_X1's input inverter ...
MM7 net1 A VDD VDD PMOS w=10.2u l=1u
MM3 net1 A GND GND NMOS w=3.4u l=1u
* ... driving two output inverters in parallel (that is the "X2").
MM1 Y net1 VDD VDD PMOS w=10.2u l=1u
MM2 Y net1 GND GND NMOS w=3.4u l=1u
MM4 Y net1 VDD VDD PMOS w=10.2u l=1u
MM5 Y net1 GND GND NMOS w=3.4u l=1u
.ends

** DFFRB: from I2C .cir
.subckt DFFRB VDD QB D Q RSTB GND CK
*.PININFO VDD:B GND:B D:I QB:O CK:I Q:O RSTB:I
MM2 net1 D VDD VDD PMOS w=5.2u l=1u
MM1 net2 CKP net1 VDD PMOS w=5.2u l=1u
MM7 net2 CKB net3 GND NMOS w=3.4u l=1u
MM8 net3 D GND GND NMOS w=3.4u l=1u
MM10 QM net2 VDD VDD PMOS w=5.2u l=1u
MM11 QM net2 GND GND NMOS w=3.4u l=1u
MM13 net4 QM GND GND NMOS w=3.4u l=1u
MM15 net4 CKP net2 GND NMOS w=3.4u l=1u
MM22 QB QS VDD VDD PMOS w=10.4u l=1u
MM3 net4 QM VDD VDD PMOS w=5.2u l=1u
MM4 net2 CKB net4 VDD PMOS w=5.2u l=1u
MM5 QS CKP QM GND NMOS w=3.4u l=1u
MM6 QM CKB QS VDD PMOS w=5.2u l=1u
MM9 net5 QB GND GND NMOS w=3.4u l=1u
MM12 net5 QB VDD VDD PMOS w=5.2u l=1u
MM14 net5 CKB QS GND NMOS w=3.4u l=1u
MM16 QS CKP net5 VDD PMOS w=5.2u l=1u
MM17 QB RSTB net6 GND NMOS w=3.4u l=1u
MM18 Q QB VDD VDD PMOS w=10.4u l=1u
MM19 Q QB GND GND NMOS w=3.4u l=1u
MM20 CKB CK VDD VDD PMOS w=10.4u l=1u
MM21 CKB CK GND GND NMOS w=3.4u l=1u
MM23 CKP CKB VDD VDD PMOS w=10.4u l=1u
MM24 CKP CKB GND GND NMOS w=3.4u l=1u
MM25 net6 QS GND GND NMOS w=3.4u l=1u
MM26 QB RSTB VDD VDD PMOS w=10.4u l=1u
.ends

** FILL2: from I2C .cir
.subckt FILL2 VDD GND
*.PININFO GND:B VDD:B
MM7 VDD GND VDD VDD PMOS w=21.2u l=3.2u
MM2 GND VDD GND GND NMOS w=13.1u l=3.2u
.ends

** INV_X1: from I2C .cir
.subckt INV_X1 VDD A Y GND
*.PININFO A:I Y:O GND:B VDD:B
MM7 Y A VDD VDD PMOS w=10.2u l=1u
MM2 Y A GND GND NMOS w=3.4u l=1u
.ends

** MUX2: from I2C .cir
.subckt MUX2 A B S VDD Y GND
*.PININFO S:I Y:O VDD:B GND:B B:I A:I
MM13 SB S VDD VDD PMOS w=6.8u l=1u
MM8 net2 S net3 VDD PMOS w=6.8u l=1u
MM12 SB S GND GND NMOS w=3.4u l=1u
MM6 net2 SB net3 GND NMOS w=3.4u l=1u
MM11 net1 B VDD VDD PMOS w=6.8u l=1u
MM14 net1 B GND GND NMOS w=3.4u l=1u
MM15 net2 A VDD VDD PMOS w=6.8u l=1u
MM16 net2 A GND GND NMOS w=3.4u l=1u
MM3 net1 SB net3 VDD PMOS w=6.8u l=1u
MM5 net1 S net3 GND NMOS w=3.4u l=1u
MM1 Y net3 VDD VDD PMOS w=11.2u l=1u
MM2 Y net3 GND GND NMOS w=3.4u l=1u
.ends

** MUXDFFRB: from I2C .cir
.subckt MUXDFFRB VDD A Q B CK S QB VSS RSTB
*.PININFO A:I B:I CK:I Q:O QB:O VDD:B VSS:B S:I RSTB:I
Mx1_MM2 x1_net1 net1 VDD VDD PMOS w=5.2u l=1u
Mx1_MM1 x1_net2 x1_CKP x1_net1 VDD PMOS w=5.2u l=1u
Mx1_MM7 x1_net2 x1_CKB x1_net3 VSS NMOS w=3.4u l=1u
Mx1_MM8 x1_net3 net1 VSS VSS NMOS w=3.4u l=1u
Mx1_MM10 x1_QM x1_net2 VDD VDD PMOS w=5.2u l=1u
Mx1_MM11 x1_QM x1_net2 VSS VSS NMOS w=3.4u l=1u
Mx1_MM13 x1_net4 x1_QM VSS VSS NMOS w=3.4u l=1u
Mx1_MM15 x1_net4 x1_CKP x1_net2 VSS NMOS w=3.4u l=1u
Mx1_MM22 QB x1_QS VDD VDD PMOS w=10.4u l=1u
Mx1_MM3 x1_net4 x1_QM VDD VDD PMOS w=5.2u l=1u
Mx1_MM4 x1_net2 x1_CKB x1_net4 VDD PMOS w=5.2u l=1u
Mx1_MM5 x1_QS x1_CKP x1_QM VSS NMOS w=3.4u l=1u
Mx1_MM6 x1_QM x1_CKB x1_QS VDD PMOS w=5.2u l=1u
Mx1_MM9 x1_net5 QB VSS VSS NMOS w=3.4u l=1u
Mx1_MM12 x1_net5 QB VDD VDD PMOS w=5.2u l=1u
Mx1_MM14 x1_net5 x1_CKB x1_QS VSS NMOS w=3.4u l=1u
Mx1_MM16 x1_QS x1_CKP x1_net5 VDD PMOS w=5.2u l=1u
Mx1_MM17 QB RSTB x1_net6 VSS NMOS w=3.4u l=1u
Mx1_MM18 Q QB VDD VDD PMOS w=10.4u l=1u
Mx1_MM19 Q QB VSS VSS NMOS w=3.4u l=1u
Mx1_MM20 x1_CKB CK VDD VDD PMOS w=10.4u l=1u
Mx1_MM21 x1_CKB CK VSS VSS NMOS w=3.4u l=1u
Mx1_MM23 x1_CKP x1_CKB VDD VDD PMOS w=10.4u l=1u
Mx1_MM24 x1_CKP x1_CKB VSS VSS NMOS w=3.4u l=1u
Mx1_MM25 x1_net6 x1_QS VSS VSS NMOS w=3.4u l=1u
Mx1_MM26 QB RSTB VDD VDD PMOS w=10.4u l=1u
Mx2_MM13 x2_SB S VDD VDD PMOS w=6.8u l=1u
Mx2_MM8 x2_net2 S x2_net3 VDD PMOS w=6.8u l=1u
Mx2_MM12 x2_SB S VSS VSS NMOS w=3.4u l=1u
Mx2_MM6 x2_net2 x2_SB x2_net3 VSS NMOS w=3.4u l=1u
Mx2_MM11 x2_net1 B VDD VDD PMOS w=6.8u l=1u
Mx2_MM14 x2_net1 B VSS VSS NMOS w=3.4u l=1u
Mx2_MM15 x2_net2 A VDD VDD PMOS w=6.8u l=1u
Mx2_MM16 x2_net2 A VSS VSS NMOS w=3.4u l=1u
Mx2_MM3 x2_net1 x2_SB x2_net3 VDD PMOS w=6.8u l=1u
Mx2_MM5 x2_net1 S x2_net3 VSS NMOS w=3.4u l=1u
Mx2_MM1 net1 x2_net3 VDD VDD PMOS w=11.2u l=1u
Mx2_MM2 net1 x2_net3 VSS VSS NMOS w=3.4u l=1u
.ends

** NAND2: from I2C .cir
.subckt NAND2 VDD Y A B GND
*.PININFO B:I A:I Y:O GND:B VDD:B
MM7 Y A VDD VDD PMOS w=10.2u l=1u
MM1 Y B VDD VDD PMOS w=10.2u l=1u
MM2 Y B net1 GND NMOS w=3.4u l=1u
MM3 net1 A GND GND NMOS w=3.4u l=1u
.ends

** NOR2: from I2C .cir
.subckt NOR2 VDD Y A B GND
*.PININFO A:I B:I Y:O VDD:B GND:B
MM7 net1 A VDD VDD PMOS w=10.2u l=1u
MM1 Y B net1 VDD PMOS w=10.2u l=1u
MM2 Y A GND GND NMOS w=3.4u l=1u
MM3 Y B GND GND NMOS w=3.4u l=1u
.ends

** NOR4: from I2C .cir
.subckt NOR4 A B C D VDD Y GND
*.PININFO A:I B:I Y:O VDD:B GND:B C:I D:I
MM8 net1 B VDD VDD PMOS w=10.2u l=1u
MM2 net2 A net1 VDD PMOS w=10.2u l=1u
MM3 net3 C net2 VDD PMOS w=10.2u l=1u
MM6 Y D net3 VDD PMOS w=10.2u l=1u
MM9 Y D GND GND NMOS w=3.4u l=1u
MM1 Y B GND GND NMOS w=3.4u l=1u
MM4 Y C GND GND NMOS w=3.4u l=1u
MM5 Y A GND GND NMOS w=3.4u l=1u
.ends

** OR3: from I2C .cir
.subckt OR3 C VDD Y A B GND
*.PININFO A:I B:I Y:O VDD:B GND:B C:I
MM8 net1 B VDD VDD PMOS w=10.2u l=1u
MM2 net2 A net1 VDD PMOS w=10.2u l=1u
MM3 net3 C net2 VDD PMOS w=10.2u l=1u
MM7 Y net3 VDD VDD PMOS w=10.2u l=1u
MM9 Y net3 GND GND NMOS w=3.4u l=1u
MM1 net3 C GND GND NMOS w=3.4u l=1u
MM4 net3 A GND GND NMOS w=3.4u l=1u
MM5 net3 B GND GND NMOS w=3.4u l=1u
.ends

** XNOR2: from I2C .cir
.subckt XNOR2 VDD Y A B GND
*.PININFO VDD:B GND:B A:I B:I Y:O
MM10 net1 A VDD VDD PMOS w=10.2u l=1u
MM1 net1 B VDD VDD PMOS w=10.2u l=1u
MM2 Y net1 VDD VDD PMOS w=10.2u l=1u
MM3 net4 B VDD VDD PMOS w=10.2u l=1u
MM4 Y A net4 VDD PMOS w=10.2u l=1u
MM11 net1 B net3 GND NMOS w=3.4u l=1u
MM5 net3 A GND GND NMOS w=3.4u l=1u
MM6 Y net1 net2 GND NMOS w=3.4u l=1u
MM7 net2 A GND GND NMOS w=3.4u l=1u
MM8 net2 B GND GND NMOS w=3.4u l=1u
.ends

** XOR2: from I2C .cir
.subckt XOR2 VDD Y A B GND
*.PININFO VDD:B GND:B A:I B:I Y:O
MM10 net1 A VDD VDD PMOS w=10.2u l=1u
MM1 net2 B net1 VDD PMOS w=10.2u l=1u
MM8 net3 A VDD VDD PMOS w=10.2u l=1u
MM2 net3 B VDD VDD PMOS w=10.2u l=1u
MM9 Y net2 net3 VDD PMOS w=10.2u l=1u
MM3 net2 A GND GND NMOS w=3.4u l=1u
MM4 net2 B GND GND NMOS w=3.4u l=1u
MM5 Y net2 GND GND NMOS w=3.4u l=1u
MM7 net4 B GND GND NMOS w=3.4u l=1u
MM6 Y A net4 GND NMOS w=3.4u l=1u
.ends
